US05051508
1-(2-Methylphenyl)-4-oxo-6-methyl-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline(16 g) was dissolved in phosphoryl chloride (100 ml) and heated at reflux for 5 hours. After cooling, the solution was poured onto ice, made alkaline with aqueous sodium hydroxide solution, and extracted with dichloromethane, which was dried and evaporated. Crystallisation from ethyl acetate gave 1-(2-methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo-[3,2-c]quinoline, which was used without further purification.

reactant | 1-(2-Methylphenyl)-4-oxo-6-methyl-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 16 g | CC1=C(C=CC=C1)N1CCC=2C(NC=3C(=CC=CC3C21)C)=O | C19H18N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphoryl chloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(2-methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo-[3,2-c]quinoline | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H17ClN2
